* c:\users\kesav\esim-workspace\adcsar\adcsar.cir

.include INVCMOS.sub
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 in net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m2 net-_m1-pad3_ net-_m2-pad2_ in net-_m1-pad3_ CMOSP W=100u L=100u M=1
v2  net-_m1-pad2_ gnd pulse(-2.5 2.5 0.01 0.001 0.009 0.05 0.1)
v1  in gnd sine(0 5 50 0 0)
x1 net-_m1-pad2_ net-_m2-pad2_ INVCMOS
m6 vcc net-_m3-pad1_ net-_m6-pad3_ vcc CMOSP W=100u L=100u M=1
m9 vcc net-_m6-pad3_ net-_m8-pad1_ vcc CMOSP W=100u L=100u M=1
m3 net-_m3-pad1_ net-_m1-pad3_ net-_m3-pad3_ net-_m3-pad3_ CMOSN W=100u L=100u M=1
m7 net-_m3-pad3_ net-_m14-pad3_ net-_m6-pad3_ net-_m6-pad3_ CMOSN W=100u L=100u M=1
m8 net-_m8-pad1_ net-_m6-pad3_ gnd gnd CMOSN W=100u L=100u M=1
m5 ? net-_m1-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m4 net-_m3-pad1_ net-_m3-pad1_ vcc net-_m3-pad1_ CMOSP W=100u L=100u M=1
* u2  gnd net-_u10-pad2_ net-_u10-pad4_ ? net-_u2-pad5_ ? d_dff
* u4  net-_u2-pad5_ net-_u10-pad2_ ? ? net-_u4-pad5_ ? d_dff
* u7  net-_u4-pad5_ net-_u10-pad2_ ? ? net-_u10-pad1_ ? d_dff
* u3  net-_m8-pad1_ d2 net-_u2-pad5_ ? d3 ? d_dff
* u10  net-_u10-pad1_ net-_u10-pad2_ ? net-_u10-pad4_ net-_u10-pad5_ ? d_dff
* u13  net-_u10-pad5_ net-_u10-pad2_ ? net-_u10-pad4_ net-_u13-pad5_ ? d_dff
* u6  net-_m8-pad1_ d1 net-_u4-pad5_ ? d2 ? d_dff
* u9  net-_m8-pad1_ d0 net-_u10-pad1_ ? d1 ? d_dff
* u12  net-_m8-pad1_ net-_u12-pad2_ net-_u10-pad5_ ? d0 ? d_dff
* u15  net-_u15-pad1_ net-_u15-pad1_ net-_u13-pad5_ ? net-_u12-pad2_ ? d_dff
v3  net-_u10-pad2_ gnd pulse(0 1 0.01 0.001 0.009 0.05 0.01)
* u14  d0 plot_v1
* u11  d1 plot_v1
* u8  d2 plot_v1
* u5  d3 plot_v1
* u1  in plot_v1
m12 net-_m10-pad1_ net-_m10-pad1_ vcc vcc CMOSP W=100u L=100u M=1
m14 vcc net-_m10-pad1_ net-_m14-pad3_ net-_m14-pad3_ CMOSP W=100u L=100u M=1
m10 net-_m10-pad1_ d3 gnd gnd CMOSN W=100u L=100u M=1
m11 ? d2 gnd gnd CMOSN W=100u L=100u M=1
m13 ? d1 gnd gnd CMOSN W=100u L=100u M=1
m15 net-_m10-pad1_ d0 gnd gnd CMOSN W=100u L=100u M=1
a1 gnd net-_u10-pad2_ net-_u10-pad4_ ? net-_u2-pad5_ ? u2
a2 net-_u2-pad5_ net-_u10-pad2_ ? ? net-_u4-pad5_ ? u4
a3 net-_u4-pad5_ net-_u10-pad2_ ? ? net-_u10-pad1_ ? u7
a4 net-_m8-pad1_ d2 net-_u2-pad5_ ? d3 ? u3
a5 net-_u10-pad1_ net-_u10-pad2_ ? net-_u10-pad4_ net-_u10-pad5_ ? u10
a6 net-_u10-pad5_ net-_u10-pad2_ ? net-_u10-pad4_ net-_u13-pad5_ ? u13
a7 net-_m8-pad1_ d1 net-_u4-pad5_ ? d2 ? u6
a8 net-_m8-pad1_ d0 net-_u10-pad1_ ? d1 ? u9
a9 net-_m8-pad1_ net-_u12-pad2_ net-_u10-pad5_ ? d0 ? u12
a10 net-_u15-pad1_ net-_u15-pad1_ net-_u13-pad5_ ? net-_u12-pad2_ ? u15
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u2 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u4 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u7 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u3 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u10 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u13 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u6 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u9 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u12 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u15 d_dff(rise_delay=1.0e-9 clk_load=1.0e-12 clk_delay=1.0e-9 reset_delay=1.0 ic=0 set_load=1.0e-12 data_load=1.0e-12 reset_load=1.0e-12 fall_delay=1.0e-9 set_delay=1.0e-9 ) 
.tran 10e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d0)
plot v(d1)
plot v(d2)
plot v(d3)
plot v(in)
.endc
.end
